US03935312
78 G (0.4 mole) of 6-chloro-2,3-diamino-quinoxaline were dissolved in 500 ml of anhydrous propionic acid and 105 g (0.8 mole) of propionic anhydride were added thereto. The reaction mixture was heated to the boil under reflux for 5 hours. After cooling, the solvent was distilled off in vacuo, the residue was taken up in dilute sodium hydroxide solution, the mixture was filtered, the filtrate was acidified with dilute hydrochloric acid and the resulting precipitate was filtered off. It was well washed with water and dried in vacuo at 110°C. 82 g (representing 88% of theory) of 6-chloro-2-ethyl-1H-imidazo[4,5-b]quinoxaline of melting point 190°C (decomposition) were obtained.

reactant | 6-chloro-2,3-diamino-quinoxaline | 0.4 mole | ClC=1C=C2N=C(C(=NC2=CC1)N)N | C8H7ClN4
reactant | propionic anhydride | 0.8 mole, 105 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | propionic acid | 500 ml | C(CC)(=O)O | C3H6O2
product | 6-chloro-2-ethyl-1H-imidazo[4,5-b]quinoxaline | 82 g, 88% | ClC=1C=C2N=C3C(=NC2=CC1)NC(=N3)CC | C11H9ClN4
